US09029399B2
Preparation of 1-(2-chloro-6-(trifluoromethyl)pyridin-4-yl)-3-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (37A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 110 mg, 0.5412 mmol) was reacted with 2-chloro-4-iodo-6-(trifluoromethyl)pyridine (200 mg, 0.6494 mmol), 1,4-dioxane (5 mL), copper iodide (10 mg, 0.0541 mmol), trans-N1,N2-dimethylcyclohexane-1,2-diamine (23 mg, 0.1623 mmol) and potassium phosphate (345 mg, 1.6236 mmol) to afford the crude product. Purification by column chromatography on silica gel (1.5% methanol in CHCl3), followed by prep HPLC afforded 22 mg of the product (10% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.5412 mmol, 110 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 2-chloro-4-iodo-6-(trifluoromethyl)pyridine | 0.6494 mmol, 200 mg | ClC1=NC(=CC(=C1)I)C(F)(F)F | C6H2ClF3IN
reactant | trans-N1,N2-dimethylcyclohexane-1,2-diamine | 0.1623 mmol, 23 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.6236 mmol, 345 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.0541 mmol, 10 mg | [Cu](I)I
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(2-chloro-6-(trifluoromethyl)pyridin-4-yl)-3-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 22 mg, 10% yield | ClC1=NC(=CC(=C1)N1C(N(CC1)C=1C=NC=CC1C1CC1)=O)C(F)(F)F | C17H14ClF3N4O
